US05037829
To a solution of 16.2 parts of potassium hydroxide, 150 parts of water and 5.72 parts of intermediate 17, namely 3-(cyanophenylmethylene)-6-(hydroxyimino)-1,4-cyclohexadiene-1-carboxylic acid, was added a solution of 16.25 parts of hydrogen peroxide in 16 parts of water. After stirring for 1 hour at room temperature, the reaction mixture was acidified with HCl while cooling on ice. The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was recrystallized from methylbenzene, yielding 3.7 parts (63.5%) of 5-benzoyl-2-nitrobenzoic acid; mp. 168.6° C. (interm. 18).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-(cyanophenylmethylene)-6-(hydroxyimino)-1,4-cyclohexadiene-1-carboxylic acid | C(#N)C(=C1C=C(C(C=C1)=NO)C(=O)O)C1=CC=CC=C1 | C15H10N2O3
reactant | hydrogen peroxide | OO | H2O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 5-benzoyl-2-nitrobenzoic acid | 63.5% | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H9NO5
